US08211904B2
Step 2: 2-(trimethylsilyl)ethyl 4-oxo-2-vinylpiperidine-1-carboxylate
2-(trimethylsilyl)ethyl 4-oxo-2-vinyl-3,4-dihydropyridine-1(2H)-carboxylate (29.1 g, 109 mmol) in acetic acid (500 ml) was added zinc dust (42.7 g, 652 mmol). The solution stirred at room temperature for 2 hrs and was filtered through a pad of celite. The solvent was evaporated under reduced pressure and the product was purified by column chromatography on silica gel Biotage 65i, eluting with 20% ethyl acetate/hexanes.

reactant | 2-(trimethylsilyl)ethyl 4-oxo-2-vinyl-3,4-dihydropyridine-1(2H)-carboxylate | 109 mmol, 29.1 g | O=C1CC(N(C=C1)C(=O)OCC[Si](C)(C)C)C=C | C13H21NO3Si
solvent | acetic acid | 500 ml | C(C)(=O)O | C2H4O2
catalyst | zinc | 652 mmol, 42.7 g | [Zn] | Zn
product | 2-(trimethylsilyl)ethyl 4-oxo-2-vinylpiperidine-1-carboxylate | O=C1CC(N(CC1)C(=O)OCC[Si](C)(C)C)C=C | C13H23NO3Si
